US05514680
To a solution of 2-acetamido-5-chlorobenzotrifluoride (890 mg, 3.74 mmol) in concentrated H2SO4 (4 mL) at 0° C. was added dropwise 70% HNO3 (0.5 mL, Baker). The mixture was stirred at 0° C. for 0.5 h, then at room temperature for 3 h and it was poured into ice water (15 g). The precipitate was collected by filtration, affording 700 mg of crude 2-acetamido-5-chloro-3-nitrobenzotrifluoride. It was crystallized from EtOH/H2O to give 559 mg of pure 2-acetamido-5-chloro-3-nitrobenzotrifluoride as yellow needles. Mp 190°-2° C., 1H NMR (CDCl3): δ2.210 (s, 3H), 7.357 (s, 1H), 7.896 (d, 1H, J=2.1 Hz), 8.105 (d, 1H, J=2.1 Hz).

reactant | 2-acetamido-5-chlorobenzotrifluoride | 3.74 mmol, 890 mg | C(C)(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F | C9H7ClF3NO
reactant | HNO3 | 0.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | 2-acetamido-5-chloro-3-nitrobenzotrifluoride | 700 mg | C(C)(=O)NC1=C(C=C(C=C1[N+](=O)[O-])Cl)C(F)(F)F | C9H6ClF3N2O3
